US08293909B2
To a solution containing methyl 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylate (0.59 g, 1.9 mmol), THF (13.5 mL) and methanol (8.5 mL) was added aqueous lithium hydroxide (9.3 mL, 2.0 M). The solution was maintained at 50° C. for 15 h. The solution was cooled to room temperature, adjusted to below pH 4 with aqueous HCl (22 mL, 1.0 N) and extracted with ethyl acetate (3×15 mL). The combined organic portions were washed with brine (15 mL), dried over MgSO4, filtered and concentrated to afford 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylic acid as white solid which was used without further purification. 1H NMR (500 MHz, DMSO-D6) δ ppm 12.99 (s, 1H), 7.93 (d, J=8.55 Hz, 1H), 7.80 (d, J=2.44 Hz, 1H), 7.59 (dd, J=8.55, 5.49 Hz, 2H), 7.32 (t, J=8.70 Hz, 2H), 7.11 (dd, J=8.85, 2.44 Hz, 1H), 3.82-3.87 (m, 3H). LCMS: retention time: 1.532 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 303 (MH−).

reactant | methyl 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylate | 1.9 mmol, 0.59 g | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)OC)C(=O)OC | C17H13FO3S
reactant | THF | 13.5 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 2.0 M, 9.3 mL | [OH-].[Li+]
reactant | HCl | 1.0 N, 22 mL | Cl | ClH
solvent | methanol | 8.5 mL | CO | CH4O
product | 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylic acid | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)OC)C(=O)O | C16H11FO3S
